US07652057B2
Into a sealable tube under argon was added 4-bromo-5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one (2.59 g), cyclopropylboronic acid (1.23 g), potassium phosphate (8.18 g), tricyclohexyl phosphine (0.30 g), toluene (50 mL) and water (3.2 mL). To this was added palladium acetate (0.11 g) and the tube was sealed and stirred at 100° C. for 4 days. The reaction vessel was then cooled and then diluted with water/EtOAc. The phases were separated and the aqueous phase was extracted with further EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate and evaporated in vacuo to afford a crude residue. Flash column chromatography over silica gel using ISCO combiflash chromatography and eluting with EtOAc/heptane afforded the desired 4,5-dicyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one which was further purified by crystallization from EtOAc/pentante to give 1.12 g of the desired title compound as a white crystalline solid. MS (ESI+): 255.3 ([M+H]+).

reactant | 4-bromo-5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 2.59 g | BrC=1C(N(N(C1C1CC1)C)C1=CC=CC=C1)=O | C13H13BrN2O
reactant | cyclopropylboronic acid | 1.23 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 8.18 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexyl phosphine | 0.30 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | water EtOAc | O.CCOC(=O)C
catalyst | palladium acetate | 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 3.2 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-dicyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | C1(CC1)C=1C(N(N(C1C1CC1)C)C1=CC=CC=C1)=O | C16H18N2O
